US05039805
Methyl p-amidinobenzoate hydrochloride is reacted with di-t-butyl dicarbonate in methylene chloride and aqueous sodium carbonate solution to give methyl p-(N-(t-butoxycarbonyl)amidino]benzoate, m.p. 157° C.

reactant | Methyl p-amidinobenzoate hydrochloride | Cl.C(N)(=N)C1=CC=C(C(=O)OC)C=C1
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | methyl p-(N-(t-butoxycarbonyl)amidino]benzoate | C(C)(C)(C)OC(=O)NC(=N)C1=CC=C(C(=O)OC)C=C1 | C14H18N2O4
